US06426345B1
To a suspension of 2-(2-carboxyethyl)-3-oxo-4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine (0.15 g) in ethanol (9 ml) was added conc. sulfonic acid (0.9 ml) and the mixture was refluxed for 30 minutes. After cooling, the reaction mixture was neutralized and ethanol was evaporated. Crystalline materials formed were collected, washed with water and dried to give 2-(2-ethoxycarbonylethyl)-3-oxo-4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine (0.12 g).

reactant | 2-(2-carboxyethyl)-3-oxo-4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine | 0.15 g | C(=O)(O)CCC1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=O)NC1=C(C=CC=C1)OC)N=CC=C2 | C24H21N5O5
reactant | ethanol | 9 ml | C(C)O | C2H6O
product | 2-(2-ethoxycarbonylethyl)-3-oxo-4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine | 0.12 g | C(C)OC(=O)CCC1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=O)NC1=C(C=CC=C1)OC)N=CC=C2 | C26H25N5O5
